US08604029B2
1-Chloro-4-nitro-benzene (5.0 g, 31.7 mmol) was added to excess aqueous methylamine solution-(40%, 30 mL) and heated in a pressure bomb for 16 h. The reaction mass was cooled to room temperature and a solid filtered off. The filtrate was evaporated to dryness and the combined solids were purified by trituration with pentane to afford methyl-(4-nitro-phenyl)-amine (4.5 g, 93%) as a solid.

reactant | 1-Chloro-4-nitro-benzene | 31.7 mmol, 5.0 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | methylamine | 30 mL | CN | CH5N
product | methyl-(4-nitro-phenyl)-amine | 4.5 g, 93% | CNC1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O2
